US07531532B2
Pyrrolidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide
2-(4-Fluorophenyl)acetyl chloride (135 mg) was dissolved in acetonitrile (5 ml) under a nitrogen atmosphere, and then potassium thiocyanate (152 mg) was added thereto at 60° C., followed by stirring at the same temperature for 1.5 hrs. The reaction mixture was cooled down to room temperature, and then a solution of 4-(4-amino-2-fluorophenoxy)-6-[(pyrrolidin-1-yl) carbonylamino]pyrimidine (99.6 mg) in acetonitrile (3 ml) was added thereto, followed by stirring for 15 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:3). Fractions containing the target compound were concentrated to give a residue, which was suspended in diethyl ether (5 ml)-hexane (5 ml). The solid was filtered off and dried under aeration to provide the titled compound (111.8 mg, 69.5%) as a pale yellow solid.

reactant | 2-(4-Fluorophenyl)acetyl chloride | 135 mg | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | potassium thiocyanate | 152 mg | [S-]C#N.[K+]
reactant | 4-(4-amino-2-fluorophenoxy)-6-[(pyrrolidin-1-yl) carbonylamino]pyrimidine | 99.6 mg | NC1=CC(=C(OC2=NC=NC(=C2)NC(=O)N2CCCC2)C=C1)F | C15H16FN5O2
reactant | hexane | 5 ml | CCCCCC | C6H14
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | Pyrrolidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide | 111.8 mg, 69.5% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C24H22F2N6O3S
